US08835426B2
A stirred solution of N-((1S,2R)-1-hydroxy-1-phenylpropan-2-yl)adamantane-1-carboxamide (3.07 g, 9.8 mmol) in dry THF (50 mL) was cooled in an ice bath and 1M BH3 in THF (50 mL, 50 mmol) was added. The ice bath was allowed to melt and the mixture was stirred over the weekend at rt. The mixture was poured into 5% aq HCl (50 mL). The mixture was concentrated on the rotary evaporator to leave a white solid which was taken up in 5% aq HCl (75 mL) and washed with ether (150 mL). The aqueous layer was made strongly basic by addition of NaOH and extracted with EtOAc (2×100 mL). The combined EtOAc extracts were dried over MgSO4 and concentrated to afford (1S,2R)-2-(1-adamantylmethylamino)-1-phenylpropan-1-ol (2.28 g, 77%) as an oil. LC-MS (3 min) tR=1.32 min, m/z=300.

reactant | N-((1S,2R)-1-hydroxy-1-phenylpropan-2-yl)adamantane-1-carboxamide | 9.8 mmol, 3.07 g | O[C@H]([C@@H](C)NC(=O)C12CC3CC(CC(C1)C3)C2)C2=CC=CC=C2 | C20H27NO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | HCl | 75 mL | Cl | ClH
solvent | HCl | 50 mL | Cl | ClH
solvent | THF | 50 mmol, 50 mL | C1CCOC1 | C4H8O
product | (1S,2R)-2-(1-adamantylmethylamino)-1-phenylpropan-1-ol | 2.28 g, 77% | C12(CC3CC(CC(C1)C3)C2)CN[C@@H]([C@@H](O)C2=CC=CC=C2)C | C20H29NO
